US07259266B2
Step 3. Preparation of 3-benzyl-2-methylphenol
A solution of (3-hydroxy-2-methylphenyl)(phenyl)methanone prepared as in Step 2 (1.60 g, 7.54 mmole) in anhydrous CH2Cl2 (70 mL) was cooled to 0° C. Triethylsilane (32.5 mL, 203 mmole) and TFA (52.3 mL, 679 mmole) were added in portions at 0° C. over a period of 3 days with the mixture brought back to reflux after each addition. After 3 days, the mixture was cooled, poured into sat. NH4Cl (200 mL) and extracted with CH2Cl2 (3×200 mL). The combined extracts were washed with H2O (200 mL), brine (100 mL), dried over MgSO4, filtered and concentrated in vacuo to give a yellow oil. The crude product was purified by silica chromatography (95:5 hexanes:EtOAc) to give 1.19 g (80% yield) of the product as a pale yellow oil: EIHRMS m/z 198.1072 (M+, C14H14O, Calc'd 198.1045).

reactant | (3-hydroxy-2-methylphenyl)(phenyl)methanone | OC=1C(=C(C=CC1)C(=O)C1=CC=CC=C1)C | C14H12O2
reactant | Triethylsilane | 203 mmole, 32.5 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 679 mmole, 52.3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NH4Cl | 200 mL | [NH4+].[Cl-]
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
product | 3-benzyl-2-methylphenol | 1.19 g, 80% yield | C(C1=CC=CC=C1)C=1C(=C(C=CC1)O)C | C14H14O
